US08648089B2
3-bromo-1-(6-chloropyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole
Sodium hydride (60% in mineral oil, 114 mg, 2.84 mmol) was added to a mixture solution of 3-bromo-6-(3-nitrophenyl)-1H-indole (450 mg, 1.42 mmol) and 4,6-dichloropyrimidine (212 mg, 1.42 mmol) in anhydrous DMF (10 mL) at room temperature. After stirring at room temperature for 5 hours, followed by addition of ice, the mixture was added to icy water. After stirring at room temperature for 12 hours, the produced solid was filtered, washed with water, and then dried. The target compound (600 mg) was obtained as yellow solid.

reactant | Sodium hydride | 2.84 mmol, 114 mg | [H-].[Na+]
reactant | 3-bromo-6-(3-nitrophenyl)-1H-indole | 1.42 mmol, 450 mg | BrC1=CNC2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9BrN2O2
reactant | 4,6-dichloropyrimidine | 1.42 mmol, 212 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-bromo-1-(6-chloropyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 600 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=NC(=C1)Cl | C18H10BrClN4O2
